US05672597
N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-[2-(N'-methylthioureido)ethylthio]acetamide
There was dissolved 3.0 g (0.0082 mol) of N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-(2-aminoethylthio)acetamide in 50 ml of chloroform. Thereto was added dropwise a solution of 0.6 g (0.0082 mol) of methyl isothiocyanate in 10 ml of chloroform, and then the mixture was refluxed with heating for 2 hours. The solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=10:1) to give 1.3 g of the titled compound as oily matter.

reactant | N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-(2-aminoethylthio)acetamide | 0.0082 mol, 3.0 g | N1(CCCCC1)CC=1C=C(OCCCNC(CSCCN)=O)C=CC1 | C19H31N3O2S
reactant | methyl isothiocyanate | 0.0082 mol, 0.6 g | CN=C=S | C2H3NS
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-[2-(N'-methylthioureido)ethylthio]acetamide | 1.3 g | N1(CCCCC1)CC=1C=C(OCCCNC(CSCCNC(=S)NC)=O)C=CC1 | C21H34N4O2S2
